US09403801B2
Step 2) tert-butyl 3,3-diallyl-2-oxopiperidine-1-carboxylate
To a solution of tert-butyl 2-oxopiperidine-1-carboxylate (8.22 g, 41.3 mmol) in anhydrous THF (80 mL) was added LiHMDS (1.0 M in THF, 103 mL, 103 mmol) dropwise under nitrogen atmosphere at −78° C. and the reaction mixture was stirred for 20 min at the same temperature and then 3-bromoprop-1-ene (10.7 mL, 124 mmol) was added to. The resulting mixture was stirred for 15 min at −78° C. and warmed to rt, quenched with water (15 mL), and concentrated in vacuo. The residue was diluted with water (30 mL) and extracted with EtOAc (50 mL×3). The combined organic phases were washed with brine (50 mL), then dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/50) to give the title compound as yellow oil (3.95 g, 35%).

reactant | tert-butyl 2-oxopiperidine-1-carboxylate | 41.3 mmol, 8.22 g | O=C1N(CCCC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | LiHMDS | 103 mmol, 1.0 M, 103 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3-bromoprop-1-ene | 124 mmol, 10.7 mL | BrCC=C | C3H5Br
reactant | THF | 80 mL | C1CCOC1 | C4H8O
product | tert-butyl 3,3-diallyl-2-oxopiperidine-1-carboxylate | 3.95 g, 35% | C(C=C)C1(C(N(CCC1)C(=O)OC(C)(C)C)=O)CC=C | C16H25NO3
